US04223136
To a solution of 5 parts of 2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile in 90 parts of concentrated sulfuric acid at 0° is slowly added, with stirring, 7 parts of concentrated nitric acid. The resultant mixture is stirred at room temperature for 1 hour, whereupon 2 volumes of water is slowly stirred in. The light yellow precipitate which forms is filtered out and recrystallized from aqueous N,N-dimethylformamide to give needles of 2,3-dihydro-8-nitro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile 10-oxide solvated 1:1 with N,N-dimethylformamide which melts above 310°. The solvent of crystallization can be removed by prolonged heating at around 200° in vacuo.

reactant | 2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | O=C1C(=C2C(SC3=C(N2)C=CC=C3)=CN1)C#N | C12H7N3OS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 2,3-dihydro-8-nitro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile 10-oxide | [N+](=O)([O-])C1=CC2=C(NC=3C(S2=O)=CNC(C3C#N)=O)C=C1 | C12H6N4O4S
